US05175344
By reaction of the 2-formylamino-3-hydroxy-4-phenyl-4-pentenoic acid methyl ester with thionyl bromide and subsequent treatment with triethyl phosphite in a manner analogous to that described in Example 1, and after chromatography (silica gel; ethyl acetate/hexane 4:1), E-2-formylamino-4-phenyl-5-diethylphosphono-3-pentenoic acid methyl ester is obtained in the form of a colourless oil. 1H-NMR (CDCl3): 2.98 (d, 2H,C(5)-H); 5.03 (dd, 1H, C(2)-H); 5.77 (dd, 1H, C(3)-H).

reactant | 2-formylamino-3-hydroxy-4-phenyl-4-pentenoic acid methyl ester | COC(C(C(C(=C)C1=CC=CC=C1)O)NC=O)=O | C13H15NO4
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | E-2-formylamino-4-phenyl-5-diethylphosphono-3-pentenoic acid methyl ester | COC(C(\C=C(\CP(=O)(OCC)OCC)/C1=CC=CC=C1)NC=O)=O | C17H24NO6P
